US05217643
To a dispersion of 1.75 g of aluminum lithium hydride in 40 ml of dry ether, a solution of 10 g of 4-n-pentylcyclohexanecarbonyl chloride in 12 ml of ether was added dropwise below 5° C., followed by stirring overnight at room temperature. After the reaction, the reaction mixture was acidified with 5%-hydrochloric acid aqueous solution until a pH value of 1 were shown and was subjected to extraction with ether. The organic layer was washed successively with water, 5%-sodium hydroxide, and water, followed by drying with anhydrous magnesium sulfate. The resultant organic layer was subjected to filtration, followed by distilling-off of the solvent to obtain 8.2 g of 4-n-pentylcyclohexylmethanol.

reactant | aluminum lithium hydride | 1.75 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | 4-n-pentylcyclohexanecarbonyl chloride | 10 g | C(CCCC)C1CCC(CC1)C(=O)Cl | C12H21ClO
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 12 ml | CCOCC | C4H10O
product | 4-n-pentylcyclohexylmethanol | 8.2 g | C(CCCC)C1CCC(CC1)CO | C12H24O
